US07612201B2
4-[3-(6-Benzyloxy-3-methyl-1H-indol-5-yl)-1H-pyrazol-4-yl]-piperazine-1-carboxylic acid benzyl ester
A solution of 4-[1-(6-benzyloxy-3-methyl-1H-indole-5-carbonyl)-2-dimethylamino-vinyl]-piperazine-1-carboxylic acid benzyl ester (0.158 g, 0.29 mmol) and hydrazine (0.75 ml, 15.5 mmol) in EtOH was refluxed for 1 hour, after which time the reaction had gone to completion. The solvent was removed in vacuo and the product purified by column chromatography in hexane/EtOAc (1:1) to afford an off-white solid (0.0445 g, 30%). LC/MS: RT=2.713 min. 522 (MH+).

reactant | 4-[1-(6-benzyloxy-3-methyl-1H-indole-5-carbonyl)-2-dimethylamino-vinyl]-piperazine-1-carboxylic acid benzyl ester | 0.29 mmol, 0.158 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(=CN(C)C)C(=O)C=1C=C2C(=CNC2=CC1OCC1=CC=CC=C1)C | C33H36N4O4
reactant | hydrazine | 15.5 mmol, 0.75 ml | NN | H4N2
solvent | EtOH | CCO | C2H6O
product | 4-[3-(6-Benzyloxy-3-methyl-1H-indol-5-yl)-1H-pyrazol-4-yl]-piperazine-1-carboxylic acid benzyl ester | 0.0445 g, 30% | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C=1C(=NNC1)C=1C=C2C(=CNC2=CC1OCC1=CC=CC=C1)C | C31H31N5O3
